US07560558B2
Compound 63: {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-phenyl}(phenyl)-methanone hydrochloride
4-Chloro-6,7-dimethoxyquinoline (0.92 g) and 2-hydroxybenzophenone (1.64 g) were stirred at 180° C. for one hr, and the reaction solution was cooled to room temperature. Chloroform was then added to the reaction solution, and separation was carried out with a 10% aqueous sodium hydroxide solution. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel using hexane-acetone. Thereafter, 10% hydrochloric acid-methanol (10 ml) was added to the product, followed by concentration. The concentrate was suspended in ether. The suspension was filtered to give the title compound (174 mg, yield 10%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 0.92 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-hydroxybenzophenone | 1.64 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-phenyl}(phenyl)-methanone hydrochloride | 174 mg, yield 10% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | InChI=1S/C24H19NO4.ClH/c1-27-22-14-18-19(15-23(22)28-2)25-13-12-21(18)29-20-11-7-6-10-17(20)24(26)16-8-4-3-5-9-16;/h3-15H,1-2H3;1H
